US08212041B2
A 48 mL sealed tube was charged with 1-(4-chloro-2-fluorophenyl)pyrrolidin-2-one (0.444 g, 2.08 mmol), pinacol diborane (1.06 g, 4.16 mmol), X-Phos (0.0991 g, 0.208 mmol), Pd2 dba3 (0.0571 g, 0.0623 mmol), potassium acetate (0.408 g, 4.16 mmol), and 1,4-dioxane (4.62 ml, 54.0 mmol), flushed with argon, sealed, then placed in a 90° C. oil bath for 5 hours. The reaction mixture was diluted with EtOAc (100 mL) and washed with water (100 mL), sat. NaHCO3 (100 mL), and brine (100 mL), dried with MgSO4, filtered, and concentrated. This was purified by MPLC using a 40 g RediSep column, eluting with 1-5% MeOH/DCM over 40 minutes. The fractions were concentrated to give 1-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrrolidin-2-one, ˜85% pure, as an orange oil that solidified upon standing.

reactant | 1-(4-chloro-2-fluorophenyl)pyrrolidin-2-one | 2.08 mmol, 0.444 g | ClC1=CC(=C(C=C1)N1C(CCC1)=O)F | C10H9ClFNO
reactant | pinacol diborane | 4.16 mmol, 1.06 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | X-Phos | 0.208 mmol, 0.0991 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | potassium acetate | 4.16 mmol, 0.408 g | C(C)(=O)[O-].[K+]
reactant | 1,4-dioxane | 54.0 mmol, 4.62 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.0623 mmol, 0.0571 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrrolidin-2-one | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)N1C(CCC1)=O | C16H21BFNO3
